US05182397
Preparation of 5'-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1'-acetyl-spiro [cyclopropane-1,3'-indolin]-2'-one
A solution of 5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1-acetyl-2-indolinone (5.1 g, 12.7 mmol) in dimethylsulfoxide is treated with sodium hydride (1.12 g, 27.9 mmol) portionwise over a 30 minute period, treated dropwise with a solution of 1,2-dibromoethane (2.62 g, 14.0 mmol) in dimethylsulfoxide over a 1 hour period and stirred at room temperature until reaction is complete by thin layer chromatography. The reaction mixture is poured into a mixture of water and ether, treated with 10% HCl and separated. The organic phase is washed with water, dried (MgSO4) and concentrated in vacuo to give a residue. The residue is chromatographed on silica gel using 5-10% ethyl acetate in hexane to give the title product as a pale yellow solid, 1.1 g, (20%), mp 118.5°-121° C., identified by 1HNMR.

reactant | 5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1-acetyl-2-indolinone | 12.7 mmol, 5.1 g | ClC1=C(C(=CC(=C1)OC=1C=C2CC(N(C2=CC1)C(C)=O)=O)F)C(F)(F)F | C17H10ClF4NO3
reactant | sodium hydride | 27.9 mmol, 1.12 g | [H-].[Na+]
reactant | 1,2-dibromoethane | 14.0 mmol, 2.62 g | BrCCBr | C2H4Br2
reactant | HCl | Cl | ClH
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5'-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-1'-acetyl-spiro [cyclopropane-1,3'-indolin]-2'-one | ClC1=C(C(=CC(=C1)OC=1C=C2C3(C(N(C2=CC1)C(C)=O)=O)CC3)F)C(F)(F)F | C19H12ClF4NO3
